US09212182B2
Intermediate DR: (4-methoxycyclohexyl)zinc(II) iodide (0.28 M in THF)
The title compound was prepared in an analogous manner to (tetrahydro-2H-pyran-4-yl)zinc(II) iodide except that 4-methoxycyclohexanol was used instead of tetrahydro-2H-pyran-4-ol in Step 1 to afford a 0.28M solution of (4-methoxycyclohexyl)zinc(11) iodide in THF.

reactant | (tetrahydro-2H-pyran-4-yl)zinc(II) iodide | [I-].O1CCC(CC1)[Zn+]
reactant | 4-methoxycyclohexanol | COC1CCC(CC1)O | C7H14O2
solvent | THF | C1CCOC1 | C4H8O
product | (4-methoxycyclohexyl)zinc(11) iodide | [I-].COC1CCC(CC1)[Zn+] | InChI=1S/C7H13O.HI.Zn/c1-8-7-5-3-2-4-6-7;;/h2,7H,3-6H2,1H3;1H;/q;;+1/p-1
